US04529724
11-Hexyl-11,12-dihydro-6H-indolo[2,1-c][1,4]benzodiazepine
To a mixture of 8 g of 11-hexyl-6H-indolo[2,1-c][1,4]benzodiazepin-12(11H)-one, the product of Example 12, 1.5 g of lithium aluminum hydride and 100 ml of THF were added and the mixture was heated to reflux for 4 hours. The reaction mixture was cooled to 0° C. and then 1.5 ml of water, 1.5 ml of 15% NaOH solution and 4.5 ml of water were sequentially added. The resultant white solid was filtered off and the solvent was stripped off to give the titled compound. Recrystallization from i-PrOH gave a colorless solid, mp 45° C.

reactant | 11-hexyl-6H-indolo[2,1-c][1,4]benzodiazepin-12(11H)-one | 8 g | C(CCCCC)N1C(C=2N(CC3=C1C=CC=C3)C3=CC=CC=C3C2)=O | C22H24N2O
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | water | 4.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 11-Hexyl-11,12-dihydro-6H-indolo[2,1-c][1,4]benzodiazepine | C(CCCCC)N1CC=2N(CC3=C1C=CC=C3)C3=CC=CC=C3C2 | C22H26N2
